US06727264B1
2-METHYL-N-(3-{1-[(3-PHENOXY-2-THIENYL)METHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure F and Scheme R using 3-phenoxy-2-thiophenecarbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 435.0 (M+H)+.

reactant | 3-phenoxy-2-thiophenecarbaldehyde | O(C1=CC=CC=C1)C1=C(SC=C1)C=O | C11H8O2S
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[(3-PHENOXY-2-THIENYL)METHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC=1SC=CC1OC1=CC=CC=C1)C | C26H30N2O2S
